US07759337B2
To a stirred solution of diisopropylamine (3.09 mL, 21.8 mmol) in THF (60 mL) under at 0° C. was added n-butyllithium (6.83 mL, 20.0 mmol) dropwise over 5 min. After 10 min, the reaction mixture was cooled to −78° C., and a solution of (4-chloro-2-fluorobenzyloxy)(tert-butyl)dimethylsilane (5.00 g, 18.2 mmol) in THF (15 mL) was added slowly over 5 min. After 2 h at −78° C., a solution of iodine (5.54 g, 21.8 mmol) in THF (25 mL) was added over 10 min. After a further 20 min at −78° C., the reaction mixture was warmed to RT and was quenched with sodium thiosulfate, followed by water (100 mL). The separated aqueous solution was extracted with diethyl ether (2×60 mL). The combined organic phases were washed with saturated aqueous solution of sodium bicarbonate, and brine. The resulting organic solution was then dried over magnesium sulfate and concentrated under reduced pressure. Flash chromatography on silica gel (dichloromethane: hexane=10:90) gave (4-chloro-2-fluoro-3-iodobenzyloxy)(tert-butyl)dimethylsilane as colorless oil. 1H NMR (300 MHz, CDCl3) δ ppm 7.30 (1H, t, J=7.5 Hz), 7.17 (1H, d, J=7.1 Hz), 4.65 (2H, s), 0.75-0.85 (9H, m), 0.01 (6 H, s)

reactant | diisopropylamine | 21.8 mmol, 3.09 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 20.0 mmol, 6.83 mL | C(CCC)[Li]
reactant | (4-chloro-2-fluorobenzyloxy)(tert-butyl)dimethylsilane | 18.2 mmol, 5.00 g | ClC1=CC(=C(CO[Si](C)(C)C(C)(C)C)C=C1)F | C13H20ClFOSi
reactant | iodine | 21.8 mmol, 5.54 g | II | I2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (4-chloro-2-fluoro-3-iodobenzyloxy)(tert-butyl)dimethylsilane | ClC1=C(C(=C(CO[Si](C)(C)C(C)(C)C)C=C1)F)I | C13H19ClFIOSi
